US08138179B2
b1) 5-(2-Hydroxyethoxy)-5-(1-trityl-1H-imidazol-4-yl)-5,6,7,8-tetrahydronaphthalene-2-carbonitrile
3.0 mmol of sodium borohydride are added in portions to a solution of 1.0 mmol of ethyl [6-cyano-1-(1-trityl-1H-imidazol-4-yl)-1,2,3,4-tetrahydronaphthalen-1-yloxy]acetate in 5 ml of ethanol at 20° C. The reaction mixture is stirred at 20° C. for 2-6 hours and then evaporated. The residue is taken up in saturated aqueous sodium bicarbonate solution and dichloromethane, and the mixture is vigorously stirred for 10 minutes. The phases are separated and the aqueous phase is back-extracted with dichloromethane. The combined organic phases are dried with sodium sulphate and evaporated. The title compound is identified from the residue on the basis of its Rf by flash chromatography (SiO2 60F).

reactant | sodium borohydride | 3.0 mmol | [BH4-].[Na+]
reactant | ethyl [6-cyano-1-(1-trityl-1H-imidazol-4-yl)-1,2,3,4-tetrahydronaphthalen-1-yloxy]acetate | 1.0 mmol | C(#N)C=1C=C2CCCC(C2=CC1)(OCC(=O)OCC)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C37H33N3O3
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 5-(2-Hydroxyethoxy)-5-(1-trityl-1H-imidazol-4-yl)-5,6,7,8-tetrahydronaphthalene-2-carbonitrile | OCCOC1(C=2C=CC(=CC2CCC1)C#N)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C35H31N3O2
